US08198311B2
Methyl 3-(1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoate (500 mg, 1.62 mmol, prepared in Synthetic Intermediate III(c)) was dissolved in 5 mL DMSO and NaHMDS (2.4 mL, 2.4 mmol, 1.0 M in THF) was added followed by bromocycloheptane (446 uL, 3.25 mmol). The reaction was heated overnight at 85° C. The reaction was quenched with TFA and purified by HPLC to give methyl 3-(1-cycloheptyl-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoate (393 mg, 60%). (M+H)+=405.

reactant | Methyl 3-(1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoate | 1.62 mmol, 500 mg | N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)C1=CC=CC=C1 | C19H20N2O2
reactant | NaHMDS | 2.4 mmol, 1.0 M, 2.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | bromocycloheptane | 3.25 mmol, 446 uL | BrC1CCCCCC1 | C7H13Br
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | methyl 3-(1-cycloheptyl-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoate | 393 mg, 60% | C1(CCCCCC1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)C1=CC=CC=C1 | C26H32N2O2
